US05993879
Butyric anhydride (260 ml, Aldrich) was added to 2-heptanol (162 g, 1.4 mol, Aldrich) over a 1.5 hour period at 100-140° C. The mixture was heated to 160° for 4 hours. The reaction mixture was then cooled, washed with hot water, washed with aqueous sodium carbonate to remove butyric anhydride, dried over sodium sulfate, and then concentrated. Fractional distillation of the crude residue under vacuum provided 1-methylhexyl butyrate (85-110°/78-80 mm Hg, 85% yield), the structure of which was confirmed by mass spectroscopy, nuclear magnetic resonance spectroscopy, and infra red spectroscopy (not shown).

reactant | 2-heptanol | 1.4 mol, 162 g | CC(CCCCC)O | C7H16O
solvent | Butyric anhydride | 260 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
product | 1-methylhexyl butyrate | 85% yield | C(CCC)(=O)OC(CCCCC)C | C11H22O2
